US04002640
5.7 G. of 1-acetamido-4-methylthiomethoxy-2-nitrobenzene is added to a mixture of 12 ml. 5N NaOH and 60 ml. methanol and the mixture heated for 15 minutes on a steam bath. The mixture is poured into 500 ml. water and is extracted with methylene chloride. The methylene chloride layer is separated, dried over sodium sulfate, and evaporated leaving 1-amino-4-methylthiomethoxy-2-nitrobenzene as a gum. This gum is dissolved in a mixture of 5 ml. acetic acid and 95 ml. methanol. 8 G. of iron powder is added and the mixture is heated at reflux for 2 hours. The methanol and acetic acid are evaporated and the residue is extracted with 200 ml. hot tetrahydrofuran. This solution is filtered and the tetrahydrofuran evaporated to yield 1,2-diamino-4-methylthiomethoxybenzene as a gum. This is purified by column chromatography.

reactant | 1-acetamido-4-methylthiomethoxy-2-nitrobenzene | C(C)(=O)NC1=C(C=C(C=C1)OCSC)[N+](=O)[O-] | C10H12N2O4S
reactant | NaOH | 5N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-amino-4-methylthiomethoxy-2-nitrobenzene | NC1=C(C=C(C=C1)OCSC)[N+](=O)[O-] | C8H10N2O3S
